US08536179B2
A clear solution of tert-butyl (5-cyano-6-methoxy-4-methylpyridin-2-yl)carbamate (0.60 g, 2.279 mmol) in HOAc (5 mL) and ethanol (20 mL) was treated on an H-Cube apparatus (50 psi, 40° C., 1 mL/min., Raney Nickel cartridge) for 18 hr. LCMS showed that the reaction was complete (86% pure). The reaction was evaporated to dryness under vacuum. Purified by silica gel chromatography (Analogix, SF25-60 g, 0 to 12% (5% NH4OH/MeOH) in CH2Cl2). The pure fractions were combined and evaporated to dryness under vacuum to give the product tert-butyl (5-(aminomethyl)-6-methoxy-4-methylpyridin-2-yl)carbamate (0.42 g, 1.571 mmol, 68.9% yield) as a white solid. 1H NMR (400 MHz, DMSO-d6) δ 9.33 (s, 1H), 7.16 (s, 1H), 3.80 (s, 3H), 3.57 (s, 2H), 2.28 (s, 3H), 1.46 (s, 9H). MS (ES)+m/e 268.1 [M+H]+.

reactant | tert-butyl (5-cyano-6-methoxy-4-methylpyridin-2-yl)carbamate | 2.279 mmol, 0.60 g | C(#N)C=1C(=CC(=NC1OC)NC(OC(C)(C)C)=O)C | C13H17N3O3
solvent | HOAc | 5 mL | CC(=O)O | C2H4O2
solvent | ethanol | 20 mL | C(C)O | C2H6O
catalyst | Raney Nickel | [Ni] | Ni
product | tert-butyl (5-(aminomethyl)-6-methoxy-4-methylpyridin-2-yl)carbamate | 1.571 mmol, 0.42 g, 68.9% yield | NCC=1C(=CC(=NC1OC)NC(OC(C)(C)C)=O)C | C13H21N3O3
